US07365225B2
4-[(3-cyclopentylpropanoyl)(4-({(4-pentylbenzyl)amino]carbonyl}-benzyl)amino]-2-hydroxybenzoic acid
The title compound was prepared following the procedure A using 4-pentylbenzylamine, 4-(chloromethyl)benzoyl chloride, 3-cyclopentylpropanoyl chloride and 7-amino-2,2-dimethyl-4H-1,3-benzodioxin-4-one. M+(ESI): 571.3

reactant | 4-pentylbenzylamine | C(CCCC)C1=CC=C(CN)C=C1 | C12H19N
reactant | 4-(chloromethyl)benzoyl chloride | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
reactant | 3-cyclopentylpropanoyl chloride | C1(CCCC1)CCC(=O)Cl | C8H13ClO
reactant | 7-amino-2,2-dimethyl-4H-1,3-benzodioxin-4-one | NC=1C=CC2=C(OC(OC2=O)(C)C)C1 | C10H11NO3
product | 4-[(3-cyclopentylpropanoyl)(4-({(4-pentylbenzyl)amino]carbonyl}-benzyl)amino]-2-hydroxybenzoic acid | C1(CCCC1)CCC(=O)N(C1=CC(=C(C(=O)O)C=C1)O)CC1=CC=C(C=C1)C(=O)NCC1=CC=C(C=C1)CCCCC | C35H42N2O5
